US07737166B2
2-Amino-4-bromo-5-iodo-3-methoxy-6-methylbenzamide (I-34)
Under nitrogen atmosphere, 7-bromo-6-iodo-5-methoxy-5-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (I-32) (3.68 g, 8.93 mmol) and ammonium acetate (3.44 g, 44.7 mmol) were added to dewatered N,N-dimethylformamide (80 ml), followed by stirring at room temperature for 2 hours. The reaction liquid was concentrated under reduced pressure, ethyl acetate and water were added to the residue, the precipitated insoluble matter was separated by filtration. The organic layer was collected by liquid-liquid separation, washed with aqueous saturated sodium chloride solution and dried on anhydrous magnesium sulfate, the solvent was evaporated away under reduced pressure to obtain the entitled compound (1.73 g, 50%) as a brown solid. Not further purified, this was used in the next reaction.

reactant | 7-bromo-6-iodo-5-methoxy-5-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 8.93 mmol, 3.68 g | BrC1=C(C(C2C(NC(OC2=O)=O)=C1)(C)OC)I | C10H9BrINO4
reactant | ammonium acetate | 44.7 mmol, 3.44 g | C(C)(=O)[O-].[NH4+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-Amino-4-bromo-5-iodo-3-methoxy-6-methylbenzamide | 1.73 g, 50% | NC1=C(C(=O)N)C(=C(C(=C1OC)Br)I)C | C9H10BrIN2O2
